data/mechanisms/records/IMS8-EQ8.86a.json
{"mechanism_id": "IMS8-EQ8.86a", "species": [{"species_id": "dimethoxy_carbenium_ion", "mapped_smiles": "[CH3:1][CH2:2][C+:3]([O:7][CH3:8])[CH:4]([1H:11])[CH2:5][CH2:6][O:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "enol_ether_methyloxonium_ion", "mapped_smiles": "[CH3:1][CH2:2][C:3]([O:7][CH3:8])=[CH:4][CH2:5][CH2:6][O+:9]([1H:11])[CH3:10]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclic_oxocarbenium_2_ethyl", "mapped_smiles": "[CH3:1][CH2:2][C:3]1=[CH:4][CH2:5][CH2:6][O+:7]1[CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methanol_loss_a", "mapped_smiles": "[CH3:10][O:9][1H:11]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethoxy_carbenium_ion"]}, {"state_id": "state_enol_ether_oxonium", "species_ids": ["enol_ether_methyloxonium_ion"]}, {"state_id": "state_products", "species_ids": ["cyclic_oxocarbenium_2_ethyl", "methanol_loss_a"]}], "steps": [{"step_id": "step_rH_proton_transfer_to_remote_ether", "from_state": "state_precursor", "to_state": "state_enol_ether_oxonium", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 11]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}, {"source": {"type": "lone_pair", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [9, 11]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_displacement_of_methanol", "from_state": "state_enol_ether_oxonium", "to_state": "state_products", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 9]}, "target": {"type": "lone_pair", "atom_maps": [9]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_8_86a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_proton_transfer_to_remote_ether", "support_type": "textbook_proposed", "locator": {"page": 200, "equation": "8.86", "figure": null, "panel": "left branch, first 'r H' arrow", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.86 (printed page 200), introduced by the sentence at the top of the page: 'In bi- or multifunctional compounds the charge-bearing group can activate adjacent C-H bonds for specific proton transfer (Záhorszky 1988, Equation 8.86).' The reacting ion is drawn at the head of the scheme TWICE, joined by a double-headed RESONANCE arrow: the methoxy-oxocarbenium form CH3-O(+)=C(C2H5)- (left) and the localized carbenium form CH3-O-C(+)(C2H5)- (right, '+' printed under the carbon). Convention C: this record localizes the ion as the CARBENIUM form (charge on C(3), neutral ether oxygen O(7)) because that is the form BOTH reacting conformers below the resonance arrow are drawn in and the only form from which the drawn arrows make sense; the resonance pair itself is not encoded as a step. STRUCTURE (concrete, no R groups): CH3CH2-C(+)(OCH3)-CH2CH2CH2-OCH3, C8H17O2(+); the neutral molecule it comes from is NOT drawn on the page. Below the resonance arrow the same ion is redrawn in a folded conformation with the C(4)-H written out explicitly and the remote OCH3 folded back next to it. Book draws 2 arcs; moves <1,2> are BOTH drawn and no implicit hook is needed (a proton transfer is complete with two two-electron arrows): <1> a full double-barbed arrow whose tail is on the explicitly drawn C(4)-H bond and whose head points at the C(3)-C(4) bond next to the '+', i.e. the C-H pair becomes the C(3)=C(4) pi bond; <2> a full arrow from the remote methoxy oxygen O(9) with its head on that hydrogen, i.e. an O(9) lone pair captures the proton. Net result, exactly as drawn in the second left-hand structure: the neutral enol ether CH3CH2-C(OCH3)=CH-CH2CH2-O(+)(H)CH3, the charge having moved from C(3) to O(9). The migrating hydrogen is carried as an explicit, atom-mapped [1H:11] so that the bond bookkeeping is exact; the isotope label is a mapping device only, NOT a deuterium-labeling claim (the page prints no labeled masses, although the preceding text notes that demonstrating such pathways 'usually requires D-labeling')."}, {"evidence_id": "ev_step_rd_8_86a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement_of_methanol", "support_type": "textbook_proposed", "locator": {"page": 200, "equation": "8.86", "figure": null, "panel": "left branch, 'r d' arrow", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Second (lower) step of the left branch, the vertical arrow labelled 'r d' (McLafferty's displacement symbol). Book draws 2 arcs; moves <1,2> are BOTH drawn and no implicit hook is needed: <1> the long arrow whose tail sits on the enol-ether oxygen O(7) (the 'CH3O' at the left of the structure) and whose head points at C(6), the carbon that carries the methyloxonium group, i.e. an O(7) lone pair attacks C(6) and closes the five-membered ring O(7)-C(3)=C(4)-C(5)-C(6); <2> the short curl drawn at the oxonium, tail on the C(6)-O(9) bond and head on O(9), i.e. that bond pair is left on the oxygen and neutral CH3OH departs. This is an intramolecular nucleophilic (anchimeric) displacement in an EVEN-ELECTRON ion - there is no radical site anywhere in this scheme, so McLafferty's 'rd' here means displacement in the general sense and not the radical-site-initiated displacement of Chapter 4. The drawn product is the cyclic oxocarbenium (O-methylated 2-ethyl-4,5-dihydrofuran cation), ring O(7)-C(3)(=C(4))-C(4)-C(5)-C(6) with the methyl on the ring oxygen, plus CH3OH, printed with '70%' underneath."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "unimolecular dissociation of an even-electron (EE+) fragment ion; the page names no ionization/activation experiment (D-labeling study, Záhorszky 1988)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 145.1223, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_113_route_a", "species_id": "cyclic_oxocarbenium_2_ethyl", "step_id": "step_rd_displacement_of_methanol", "observed_mz": 113.0961, "relative_intensity": 0.7, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
